US04081597
7 parts of 3-methyl-1-(4'-methylphenyl)-5-pyrazolidone are treated in a similar manner to that described in Example 1. The actual weight yield is 6.3 g of strength 91.3% (determined by titration with sodium nitrite solution which represents a yield of 88% of 3-methyl-1-(4'-methylphenyl)-5-pyrazolone.

reactant | 3-methyl-1-(4'-methylphenyl)-5-pyrazolidone | CC1NN(C(C1)=O)C1=CC=C(C=C1)C | C11H14N2O
reactant | sodium nitrite | N(=O)[O-].[Na+]
product | 3-methyl-1-(4'-methylphenyl)-5-pyrazolone | yield of 88% | CC=1NN(C(C1)=O)C1=CC=C(C=C1)C | C11H12N2O
